US05693651
(5) 5-[[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]methyl]thiazolidine-2,4-dione
In a mixture of 3N hydrochloric acid (4 mL) and ethanol (2 mL) was dissolved 5-[[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]methyl]-2-iminothiazolidin-4-one (100 mg, 0.22 mmol.). The resulting solution was heated under reflux for 12 hours. After the completion of reaction was confirmed, ethanol was distilled off. To the residue were added ethyl acetate and aqueous sodium hydrogen carbonate. The organic portion was recovered, washed with water, and dried over sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/3), to give 11 mg of the desired compound as pale brown crystalline powder (yield 11%).

reactant | 5-[[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]methyl]-2-iminothiazolidin-4-one | 0.22 mmol, 100 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C2C=C(C=NC2=C1)CC1C(NC(S1)=N)=O | C24H20N4O3S
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 3N, 4 mL | Cl | ClH
product | 5-[[7-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-quinolyl]methyl]thiazolidine-2,4-dione | 11 mg, yield 11% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C2C=C(C=NC2=C1)CC1C(NC(S1)=O)=O | C24H19N3O4S
